US08471005B2
5-Chloro-7-iodo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.252 g, 0.774 mmol), N-[2-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-methanesulfonamide (0.333 g, 1.12 mmol) and Tetrakis(triphenylphosphine)palladium(0) (72 mg, 0.062 mmol) were placed in a vial, followed by N,N-Dimethylformamide (8.0 mL) and 2.00 M of Sodium carbonate in Water (2.00 mL, 4.00 mmol). The sample was partially evacuated, placed under nitrogen and then heated in a 80° C. block for 20 h. Dimethyl sulfate (0.100 mL, 1.06 mmol) was then added to the mixture and heating continued for 7 h. The mixture was then added to water (50 mL) with stirring, portionwise. The resultant ppt was collected, washed with water and dried on the Buchner to afford N-[2-(5-Chloro-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide.

reactant | 5-Chloro-7-iodo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.774 mmol, 0.252 g | ClC=1C=C(N2N=C(N=CC21)SC)I | C7H5ClIN3S
reactant | N-[2-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-methanesulfonamide | 1.12 mmol, 0.333 g | CC1(OB(OC1(C)C)C1=C(C=CC=C1)NS(=O)(=O)C)C | C13H20BNO4S
reactant | Sodium carbonate | 2.00 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Dimethyl sulfate | 1.06 mmol, 0.100 mL | S(=O)(=O)(OC)OC | C2H6O4S
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.062 mmol, 72 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 50 mL | O | H2O
solvent | N,N-Dimethylformamide | 8.0 mL | CN(C=O)C | C3H7NO
solvent | Water | 4.00 mmol, 2.00 mL | O | H2O
product | N-[2-(5-Chloro-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | ClC=1C=C(N2N=C(N=CC21)SC)C2=C(C=CC=C2)N(S(=O)(=O)C)C | C15H15ClN4O2S2
